US09416111B2
A mixture of ethyl rel-(1R,2S)-4-{1-[5-(3-{[4-(difluoromethyl)pyrimidin-2-yl]amino}-5-methylphenyl)pyrimidin-2-yl]ethenyl}-2-methylcyclohexanecarboxylate (592 mg, 1.17 mmol) and palladium on carbon (50 mg) in THF (10 mL) was stirred at 30° C. for 16 hours under a hydrogen atmosphere (45 psi). The mixture was then filtered and concentrated under reduced pressure. The residue was purified by prep-TLC (ethyl acetate/petroleum ether) to give ethyl rel-(1R,2S)-4-{1-[5-(3-{[4-(difluoromethyl)pyrimidin-2-yl]amino}-5-methylphenyl)pyrimidin-2-yl]ethyl}-2-methylcyclohexanecarboxylate. MS ESI calc'd for C28H34F2N5O2[M+H]+ 510. found 510. 1H NMR: (400 MHz, CD3OD) δ 8.98 (d, J=1.0 Hz, 2H), 8.64 (d, J=4.8 Hz, 1H), 7.99 (s, 1H), 7.60 (s, 1H), 7.19 (s, 1H), 7.04 (d, J=5.0 Hz, 1H), 6.58 (t, J=54.4 Hz, 1H), 4.15-4.06 (m, 2H), 2.87-2.75 (m, 2H), 2.44 (s, 3H), 2.02 (br s, 2H), 1.90-1.58 (m, 4H), 1.37-1.30 (m, 5H), 1.24-1.19 (m, 3H), 1.00-0.86 (m, 3H).

reactant | ethyl rel-(1R,2S)-4-{1-[5-(3-{[4-(difluoromethyl)pyrimidin-2-yl]amino}-5-methylphenyl)pyrimidin-2-yl]ethenyl}-2-methylcyclohexanecarboxylate | 1.17 mmol, 592 mg | FC(C1=NC(=NC=C1)NC=1C=C(C=C(C1)C)C=1C=NC(=NC1)C(=C)C1C[C@@H]([C@@H](CC1)C(=O)OCC)C)F | C28H31F2N5O2
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | ethyl rel-(1R,2S)-4-{1-[5-(3-{[4-(difluoromethyl)pyrimidin-2-yl]amino}-5-methylphenyl)pyrimidin-2-yl]ethyl}-2-methylcyclohexanecarboxylate | FC(C1=NC(=NC=C1)NC=1C=C(C=C(C1)C)C=1C=NC(=NC1)C(C)C1C[C@@H]([C@@H](CC1)C(=O)OCC)C)F | C28H33F2N5O2
